US07189741B2
This compound was prepared following the procedure described in example 13 (part B) at room temperature for 15 hours, starting with 0.1 g (0.33 mmol) of 4-(5-methoxy-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester and 0.052 mL (0.43 mmol) of 2-chloro-5-chloromethyl-thiophene. After standard work-up, 0.06 g (44% of yield) of 4-[1-(5-chloro-thiophen-2-ylmethyl)-5-methoxy-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester were obtained.

reactant | 4-(5-methoxy-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 0.33 mmol, 0.1 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=CC=C(C=C12)OC | C17H22N2O3
reactant | 2-chloro-5-chloromethyl-thiophene | 0.43 mmol, 0.052 mL | ClC=1SC(=CC1)CCl | C5H4Cl2S
product | 4-[1-(5-chloro-thiophen-2-ylmethyl)-5-methoxy-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester | 0.06 g, 44% | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CC=C(C=C12)OC)CC=1SC(=CC1)Cl | C22H25ClN2O3S
